US07026335B2
Preparation of 4-cyclohexyl-4-azidomethylpiperidine-1-carboxylic acid tert-butyl ester (6):
To a solution of 4-cyclohexyl-4-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester, 4, (2.42 g, 6.73 mmol) in DMF (25 mL) is added sodium azide (1.32 g, 20.2 mmol) and the mixture is heated and stirred at 100° C. over night. The reaction is cooled and then quenched with water. The resulting solution is extracted with EtOAc (30 mL), dried, filtered and concentrated in vacuo to afford the crude product as a brown oil which is purified via chromatography on silica gel eluting with hexane/EtOAc 3:1 to afford the desired product in 76% yield (1.91 g) as a colorless oil.

reactant | 4-cyclohexyl-4-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(COS(=O)(=O)C)C1CCCCC1 | C18H33NO5S
reactant | sodium azide | 20.2 mmol, 1.32 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-cyclohexyl-4-azidomethylpiperidine-1-carboxylic acid tert-butyl ester | 76% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(CN=[N+]=[N-])C1CCCCC1 | C17H30N4O2
